US09388173B2
Step 2: 4-bromo-1H-benzo[d]imidazole
A mixture of 3-bromobenzene-1,2-diamine (2 g, 10.7 mmol) in HCOOH was stirred at 100° C. for 1 h. The mixture was cooled and concentrated in vacuo and diluted with ethyl acetate and aq. NaHCO3. The mixture was extracted further with ethyl acetate and the combined organic layers dried and concentrated to give the crude product which was purified by column chromatography to obtain the desired product (1.65 g, Yield 80%). LCMS (m/z): 197.0 (M+1).

reactant | 3-bromobenzene-1,2-diamine | 10.7 mmol, 2 g | BrC1=C(C(=CC=C1)N)N | C6H7BrN2
reactant | HCOOH | C(=O)O | CH2O2
product | 4-bromo-1H-benzo[d]imidazole | 1.65 g, Yield 80% | BrC1=CC=CC=2NC=NC21 | C7H5BrN2
